US09302991B2
<Step-1>:5-fluoro-6-(2,2,2-trifluoroethoxy)nicotinic acid
The title compound is prepared in 75% yield (21.0 g, a white solid) from 2-chloro-5-fluoro-6-(2,2,2-trifluoroethoxy)nicotinic acid (32.2 g, 118 mmol, Step-1 of Amine-12) by the similar manner in Step-4 of Amine-12.

reactant | 2-chloro-5-fluoro-6-(2,2,2-trifluoroethoxy)nicotinic acid | 118 mmol, 32.2 g | ClC1=C(C(=O)O)C=C(C(=N1)OCC(F)(F)F)F | C8H4ClF4NO3
reactant | Amine-12 | CCCCCCCCCCCCN | C12H27N
product | 5-fluoro-6-(2,2,2-trifluoroethoxy)nicotinic acid | 75% yield | FC=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C8H5F4NO3
